US04150139
The reaction of 8-methyl-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine with sodium methoxide yielded 3-methoxy-8-methyl-11H-s-triazolo[3,4-b][3]benzazepine. Colorless prisms (as recrystallized from ethyl acetate), melting point: 148°-149° C.

reactant | 8-methyl-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | CC=1C=CC2=C(C=CN3C(C2)=NN=C3S(=O)(=O)C)C1 | C13H13N3O2S
reactant | sodium methoxide | C[O-].[Na+]
product | 3-methoxy-8-methyl-11H-s-triazolo[3,4-b][3]benzazepine | COC1=NN=C2CC3=C(C=CN21)C=C(C=C3)C | C13H13N3O
